US06462198B1
(4-Trifluoromethyl-9H-xanthene-9-carbonyl)-carbamic acid ethyl ester
The title compound, white solid, m.p.=196-198° C., MS: m/e=365 (M+) was prepared in accordance with the general method of example 36 from 4-trifluoromethyl-9H-xanthene-9-carbonyl chloride and carbamic acid ethyl ester.

reactant | 4-trifluoromethyl-9H-xanthene-9-carbonyl chloride | FC(C1=CC=CC=2C(C3=CC=CC=C3OC12)C(=O)Cl)(F)F | C15H8ClF3O2
reactant | carbamic acid ethyl ester | C(C)OC(N)=O | C3H7NO2
product | (4-Trifluoromethyl-9H-xanthene-9-carbonyl)-carbamic acid ethyl ester | C(C)OC(NC(=O)C1C2=CC=CC=C2OC=2C(=CC=CC12)C(F)(F)F)=O | C18H14F3NO4
